US07468375B2
Step 1: Ethyl 1-(2-cyclohexylethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate.
The title compound was prepared by alkylation of ethyl 1H-pyrrolo[2,3-c]pyridine-5-carboxylate with (2-bromoethyl)cyclohexane in a manner similar to step 6 of example 1. 1H NMR (CDCl3) δ ppm 8.86 (s, 1H), 8.50 (s, 1H), 7.33 (d, 1H, J=3.0 Hz), 6.66 (d, 1H, J=3.0 Hz), 4.52 (q, 2H, J=6.9 Hz), 4.29 (t, 2H, J=7.5 Hz), 1.66-1.83 (m, 7H), 1.48 (t, 3H, J=7.2 Hz), 1.18-1.32 (m, 4H), 0.93-1.05 (m, 2H). LCMS (APCI, M+H+): 301.1

reactant | ethyl 1H-pyrrolo[2,3-c]pyridine-5-carboxylate | N1C=CC=2C1=CN=C(C2)C(=O)OCC | C10H10N2O2
reactant | (2-bromoethyl)cyclohexane | BrCCC1CCCCC1 | C8H15Br
product | Ethyl 1-(2-cyclohexylethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | C1(CCCCC1)CCN1C=CC=2C1=CN=C(C2)C(=O)OCC | C18H24N2O2
